US03974289
4-Hydroxy-3-nitrocoumarin
Fuming nitric acid (30 ml) was added to a stirred suspension of 4-hydroxycoumarin (5.0g) in chloroform (500 ml) at room temperature over 2 hours. After a further 2 hours, the solvent was removed in vacuo at room temperature and water (250 ml) added to the residue. Filtration gave the product, m.p. 174°, -5°, (C9H5NO5 required C, 52.18; H, 2.43; N, 6.76. Found: C, 52.00; H, 2.38; N, 6.62).

reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxycoumarin | 5.0g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Hydroxy-3-nitrocoumarin | OC1=C(C(OC2=CC=CC=C12)=O)[N+](=O)[O-] | C9H5NO5
